US07982036B2
A mixture of tert-butyl 3-(6-chloropyrimidin-4-ylamino)piperidine-1-carboxylate (295 mg, 0.94 mmol) and 3-chloro-4-fluoroaniline (2.83 g, 19.4 mmol) was heated neat at 140° C. for 19 hours. Upon cooling, the melt was stirred in EtOAc and allowed to stand at room temperature for 1 hour. The precipitate was collected, washed with EtOAc and dried to give 256 mg (85%) of N4-(3-chloro-4-fluorophenyl)-N6-(piperidin-3-yl)pyrimidine-4,6-diamine, a grayish-violet amorphous solid. MS (APCI): (M+1)+=322.

reactant | tert-butyl 3-(6-chloropyrimidin-4-ylamino)piperidine-1-carboxylate | 0.94 mmol, 295 mg | ClC1=CC(=NC=N1)NC1CN(CCC1)C(=O)OC(C)(C)C | C14H21ClN4O2
reactant | 3-chloro-4-fluoroaniline | 19.4 mmol, 2.83 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N4-(3-chloro-4-fluorophenyl)-N6-(piperidin-3-yl)pyrimidine-4,6-diamine | 256 mg, 85% | ClC=1C=C(C=CC1F)NC1=NC=NC(=C1)NC1CNCCC1 | C15H17ClFN5
